US07439246B2
A) 4-Hydroxy-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid
To a solution of ethyl 4-hydroxy-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate (442 mg, 2.0 mmol) (see example 6 of US Pat. App. 2003/0186982, the disclosure of which is herein incorporated by reference ) in 10 mL of THF was added a solution of NaOH (1 N, 6.0 mL). The mixture was heated at 60° C. overnight and HPLC analysis indicated the completion of the reaction. After cooling down, the solution was neutralized with 6.0 mL of 1 N HCl. The organic solvent was then removed and the solid was collected after filtration to the title compound (350 mg, 91%). MS(ESI+) m/z 194.2 (M+H)+.

reactant | ethyl 4-hydroxy-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 2.0 mmol, 442 mg | OC1=NC=NN2C1=C(C(=C2)C(=O)OCC)C | C10H11N3O3
reactant | NaOH | 1 N, 6.0 mL | [OH-].[Na+]
reactant | HCl | 1 N, 6.0 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid | OC1=NC=NN2C1=C(C(=C2)C(=O)O)C | C8H7N3O3
